US06653502B2
11.6 g of a solution of 50% by weight of water [321 mmol] in N-methylpyrrolidone are added over a period of 1 hour to a solution of 36.9 g of benzyl chloride [291.5 mmol] and 26 mg of palladium chloride [0.145 mmol] in 76 g of N-methylpyrrolidone at a pressure of 30 bar of carbon monoxide with a temperature of 150° C. in a 300 ml HC4 autoclave. The pressure is kept constant during the addition at 30 bar. After approximately 10 hours of post-stirring, the carbon monoxide uptake is ended. After cooling, a GC yield of 87% phenylacetic acid is obtained. After fractional distillation, 32.1 g of phenylacetic acid [278.7 mmol], equivalent to a practical yield of 81%, are obtained. The melting point is 78° C.

reactant | water | 321 mmol | O | H2O
reactant | benzyl chloride | 291.5 mmol, 36.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | carbon monoxide | [C]=O | CO
reactant | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
reactant | N-methylpyrrolidone | 76 g | CN1C(CCC1)=O | C5H9NO
catalyst | palladium chloride | 0.145 mmol, 26 mg | [Pd](Cl)Cl
product | phenylacetic acid | yield of 87% | C1(=CC=CC=C1)CC(=O)O | C8H8O2
